US07713994B2
6-Bromo-7-methoxy-4-[(4-piperidin-1-ylmethyl-phenylamino)-methylene]-4H-isoquinoline-1,3-dione
A mixture of (4E)-6-bromo-7-methoxy-4-(methoxymethylene)isoquinoline-1,3(2H,4H)-dione (156 mg, 0.50 mmole), N,N-dimethylformamide (1 mL) and 4-piperidin-1-ylmethyl-phenylamine (95 mg, 0.50 mmole) is stirred and heated at 110° C. for one hour, cooled in the refrigerator. The reaction mixture is evaporated to dryness, taken up in 5% methanol in chloroform and passed through a short pad of Florisil eluting with 5% methanol in chloroform. The eluate is evaporated in vacuo, treated with acetonitrile, filtered and dried to give a dull yellow solid 134 mg (57%), mp 264-7° C.; MS (ESI): m/z 470.1 (M+H).

reactant | (4E)-6-bromo-7-methoxy-4-(methoxymethylene)isoquinoline-1,3(2H,4H)-dione | 0.50 mmole, 156 mg | BrC=1C=C2\C(\C(NC(C2=CC1OC)=O)=O)=C/OC | C12H10BrNO4
reactant | 4-piperidin-1-ylmethyl-phenylamine | 0.50 mmole, 95 mg | N1(CCCCC1)CC1=CC=C(C=C1)N | C12H18N2
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
product | 6-Bromo-7-methoxy-4-[(4-piperidin-1-ylmethyl-phenylamino)-methylene]-4H-isoquinoline-1,3-dione | 134 mg, 57% | BrC=1C=C2C(C(NC(C2=CC1OC)=O)=O)=CNC1=CC=C(C=C1)CN1CCCCC1 | C23H24BrN3O3
